US07737166B2
2-Cyclopropyl-5-fluoromethyl-7-[(3S)-3-(methylamino)pyrrolidin-1-yl]-6-phenyl-1,3-benzoxazole-4-carbonitrile (#140)
Under nitrogen atmosphere at 130° C., (3S)-3-(methylamino)pyrrolidine (85 μl, 801 μmol) was added to a dimethyl sulfoxide (7 ml) solution of 2-cyclopropyl-7-fluoro-5-fluoromethyl-6-phenyl-1,3-benzoxazole-4-carbonitrile (I-293) (207 mg, 667 μmol) and triethylamine (121 μl, 867 μmol), followed by stirring at the same temperature for 30 minutes. After cooling, saturated brine was added to the reaction liquid, and the mixture liquid was extracted with ethyl acetate. Next, the combined organic layer was washed with saturated brine, then dried over anhydrous magnesium sulfate, filtered, and the filtrate was concentrated under reduced pressure. The resulting residue was purified by middle-pressure liquid chromatography (eluent, dichloromethane:methanol=5:1, v/v) to obtain a crude product of the entitled compound. The crude product of the entitled compound was dissolved in ethyl acetate, washed with an aqueous saturated sodium hydrogencarbonate solution, then the aqueous layer was extracted with ethyl acetate. The combined organic layer was dried over anhydrous magnesium sulfate, filtered, and the filtrate was concentrated under reduced pressure to obtain the entitled compound (62 mg, 24%) as an amorphous substance.

reactant | (3S)-3-(methylamino)pyrrolidine | 801 μmol, 85 μl | CN[C@@H]1CNCC1 | C5H12N2
reactant | dimethyl sulfoxide | 7 ml | CS(=O)C | C2H6OS
reactant | 2-cyclopropyl-7-fluoro-5-fluoromethyl-6-phenyl-1,3-benzoxazole-4-carbonitrile | 667 μmol, 207 mg | C1(CC1)C=1OC=2C(N1)=C(C(=C(C2F)C2=CC=CC=C2)CF)C#N | C18H12F2N2O
reactant | triethylamine | 867 μmol, 121 μl | C(C)N(CC)CC | C6H15N
solvent | brine | [Cl-].[Na+].O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Cyclopropyl-5-fluoromethyl-7-[(3S)-3-(methylamino)pyrrolidin-1-yl]-6-phenyl-1,3-benzoxazole-4-carbonitrile | 62 mg, 24% | C1(CC1)C=1OC=2C(N1)=C(C(=C(C2N2C[C@H](CC2)NC)C2=CC=CC=C2)CF)C#N | C23H23FN4O
